US09102671B2
A solution of (R)-ethyl 5-(2-(3-cyano-5-fluorophenyl)-4,4-difluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate (X-8) (90 mg, 0.22 mmol) in THF:MeOH:H2O 3:2:1 (2.5 mL) was added LiOH (46 mg, 1.1 mmol) and stirred at 50° C. for 12 hours. The reaction was subsequently neutralized and concentrated to dryness. The crude product was purified by column chromatography on silica gel with DCM/MeOH gradient as eluant to yield (R)-5-(2-(3-carboxy-5-fluorophenyl)-4,4-difluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid (I-52), which was immediately used in the next reaction. MS m/z 406.1 (M+1)+.

reactant | (R)-ethyl 5-(2-(3-cyano-5-fluorophenyl)-4,4-difluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate | 0.22 mmol, 90 mg | C(#N)C=1C=C(C=C(C1)F)[C@@H]1N(CC(C1)(F)F)C1=CC=2N(C=C1)N=CC2C(=O)OCC | C21H17F3N4O2
reactant | LiOH | 1.1 mmol, 46 mg | [Li+].[OH-]
reactant | THF MeOH H2O | 2.5 mL | C1CCOC1.CO.O
product | (R)-5-(2-(3-carboxy-5-fluorophenyl)-4,4-difluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid | C(=O)(O)C=1C=C(C=C(C1)F)[C@@H]1N(CC(C1)(F)F)C1=CC=2N(C=C1)N=CC2C(=O)O | C19H14F3N3O4
